US08420670B2
94.2 N*4*-Benzyl-N*2*,N*2*-dimethylquinoline-2,4-diamine
Benzyl-(2-chloroquinolin-4-yl)-amine (100 mg, 0.372 mmole), copper(II)sulphate pentahydrate (92.9 mg, 0.372 mmole) and dimethylamine (1M in MeOH, 3 mL) were stirred at 150° C. in a microwave oven for 5 hrs. The reaction mixture was dissolved with water and extracted with ethyl acetate. The residue obtained from the organic phases was purified using silica gel chromatography, eluting with dichloromethane:methanol 90:10. Precipitation in isopropyl ether gave a yellowish solid (70.0 mg, 68%).

reactant | Benzyl-(2-chloroquinolin-4-yl)-amine | 0.372 mmole, 100 mg | C(C1=CC=CC=C1)NC1=CC(=NC2=CC=CC=C12)Cl | C16H13ClN2
reactant | dimethylamine | 1M, 3 mL | CNC | C2H7N
catalyst | copper(II)sulphate pentahydrate | 0.372 mmole, 92.9 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | O | H2O
product | Benzyl-N*2*,N*2*-dimethylquinoline-2,4-diamine | 70.0 mg, 68% | C(C1=CC=CC=C1)C=1C(=NC2=CC=CC=C2C1N)N(C)C | C18H19N3
